US04301159
To a solution of N-(diethylaminoethyl)-5-methanesulfonamido-2-methoxybenzamide in acetone are added dimethyl sulfate and potassium carbonate. The resultant mixture is refluxed for 2 hours. After evaporating the solvent, the residue is mixed with water and shaken with methylene chloride. The organic layer is washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuum. The residue is washed with isopropyl ether to give N-(diethylaminoethyl)-2-methoxy-5-(N-methyl-methanesulfonamido)benzamide as crystals melting at 48°-50° C.

reactant | N-(diethylaminoethyl)-5-methanesulfonamido-2-methoxybenzamide | C(C)N(CC)CCNC(C1=C(C=CC(=C1)NS(=O)(=O)C)OC)=O | C15H25N3O4S
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-(diethylaminoethyl)-2-methoxy-5-(N-methyl-methanesulfonamido)benzamide | C(C)N(CC)CCNC(C1=C(C=CC(=C1)N(S(=O)(=O)C)C)OC)=O | C16H27N3O4S
